2101-05-23 07:05:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PRESEP CATHETER - START [**2101-5-22**] 07:00 PM
   started in ew
 BLOOD CULTURED - At [**2101-5-22**] 08:15 PM
 EKG - At [**2101-5-23**] 12:00 AM
 ARTERIAL LINE - START [**2101-5-23**] 01:00 AM
 FEVER - 102.6
F - [**2101-5-22**] 06:51 PM
   History obtained from Family / Friend
   [**Name (NI) 53**] unable to provide history: Sedated
   Allergies:
   Zestril (Oral) (Lisinopril)
   Cough;
   Bactrim Ds (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Flagyl (Oral) (Metronidazole)
   Rash;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2101-5-22**] 08:00 PM
   Vancomycin - [**2101-5-22**] 08:00 PM
   Infusions:
   Midazolam (Versed) - 5 mg/hour
   Insulin - Regular - 8 units/hour
   Fentanyl - 50 mcg/hour
   Norepinephrine - 0.1 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2101-5-23**] 12:20 AM
   Midazolam (Versed) - [**2101-5-23**] 12:28 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2101-5-23**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.6
   Tcurrent: 37.6
C (99.7
   HR: 98 (90 - 124) bpm
   BP: 131/70(93) {89/54(0) - 180/79(328)} mmHg
   RR: 22 (0 - 23) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 66 Inch
    CVP: 13 (13 - 360)mmHg
   Total In:
                                                                  9,967 mL
                                                                  1,068 mL
   PO:
   TF:
   IVF:
                                                                  3,967 mL
                                                                  1,068 mL
   Blood products:
   Total out:
                                                                  1,090 mL
                                                                    232 mL
   Urine:
                                                                    390 mL
                                                                    232 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  8,877 mL
                                                                    836 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Hemodynamic Instability
   PIP: 33 cmH2O
   SpO2: 100%
   ABG: 7.33/30/170/11/-8
   Ve: 12.9 L/min
   PaO2 / FiO2: 340
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Cool, No(t) Rash:
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   198 K/uL
   9.4 g/dL
   218 mg/dL
   1.1 mg/dL
   11 mEq/L
   4.5 mEq/L
   20 mg/dL
   121 mEq/L
   143 mEq/L
   30.2 %
   20.2 K/uL
        [image002.jpg]
                             [**2101-5-22**]  07:23 PM
                             [**2101-5-22**]  08:39 PM
                             [**2101-5-22**]  11:28 PM
                             [**2101-5-23**]  03:17 AM
   WBC
   20.2
   Hct
   30.2
   Plt
   198
   Cr
   1.3
   1.1
   TropT
   0.28
   TCO2
   17
   Glucose
   238
   170
   218
   Other labs: PT / PTT / INR:16.0/35.6/1.4, CK / CKMB /
   Troponin-T:871/12/0.28, Amylase / Lipase:27/11, Lactic Acid:3.5 mmol/L,
   Ca++:7.0 mg/dL, Mg++:1.9 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 339**] [**Known lastname 3190**] is a 58 year old female with history of DM2, HTN,
   hypercholesterolemia, GERD who presents with sepsis likely from
   pyelonephritis.
   .
   # Urosepsis: Pyelonephritis with bandemia, fevers, and hypotension.  CT
   scan with left perinephric fat stranding and asymmetrical enlargement
   with a small amount of free fluid is seen in the left paracolic
   gutter.  UA positive for infection.  No evidence for other abdominal
   infection, CXR without infiltrate.
   - Continue with broad spectrum antibiotics.  She received vancomycin
   and unasyn in the ED, however UCx from [**11-13**] showed E. coli resistent
   to Unasyn, Bactrim.  Will treat with Cipro, Vanco until further
   sensitivities are obtained.
   - Follow micro data: urine, blood and stool cultures
   - Possible adrenal insufficiency.  Stress dose steroids.  Was given
   hydrocortisone on admission to ICU.  Will change to dexamethasone and
   check cosyntropin test
   - Levophed to maintain MAP to goal >60.  If second [**Doctor Last Name **] required will
   choose Vasopressin, however if sVO2 is low consider dobutamine.
   - Keep CVP between >12
   - Low svO2 on bedside monitoring.  Concern for cardiac contribution to
   current picture - check echocardiogram and trend cardiac enzymes.
   - Central access obtained and confirmed on CXR.  Early goal directed
   therapy with IVF as tolerated.
   - Trend lactate, bands on CBC.  Monitor fever curve and treat with
   acetaminophen
   - Holding oral antihypertensive agents - Diovan, HCTZ
   - Check amylase, lipase to rule out pancreatitis
   .
   # Respiratory distress: Occurred in ED during fever, rigors.  No
   underlying lung pathology although now CXR is fluid overloaded.
   Intubated in the ED for airway protection given altered mental status.
   Hypotensive on propofol.
   - Wean vent as above overnight.
   - Mouth care, HOB elevation, daily wake up
   - Versed/Fentanyl for sedation.  Hold further propofol.
   - Repeat CXR in the AM.
   - Check RSBI in the morning.
   - Once patient is no longer hypotensive, ie improving from a septic
   standpoint, will diurese and extubate as soon as possible.
   .
   # Acute renal failure: Likely prerenal etiology
   - Hydrate as above.  Trend creatinine
   .
   # Diabetes mellitus: Last A1c 12.9 in [**2101-4-4**].  Ketones noted on
   initial UA
   - As patient is septic will give insulin gtt with q1H finger sticks.
   - No gap on chemistry, but continue to monitor.  Will restart standing
   insulin 70U once improved hemodynamically.
   .
   # Hypercholesterolemia
   - Continue outpatient regimen.
   .
   # GERD:
   - Continue PPI.
   .
   #FEN
   - NPO as diet overnight.  If not able to extubate, amylase/lipase ok
   will start TF
   - IVF bolus to maintain CVP >12
   - replete lytes PRN
   .
   #ACCESS: PIV x3, subclavian line
   .
   #PPx
   - Heparin sub-q for DVT prophylaxis
   - replete lytes PRN
   - bowel meds
   .
   #CODE: FULL
   .
   #COMMUNICATION: [**Name (NI) **] (husband) [**Telephone/Fax (1) 3192**], [**Name (NI) 163**] [**Name (NI) 3193**] (sister)
   [**Telephone/Fax (1) 3194**]
   .
   #DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2101-5-22**] 07:00 PM
   18 Gauge - [**2101-5-22**] 07:00 PM
   Arterial Line - [**2101-5-23**] 01:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2101-05-23 09:32:00 Physician Attending Progress Note
Chief Complaint: septic shock, resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   58 yo woman with DM, HTN, admitted with septic shock, likely
   pyelonephritis/urosepsis. Had received 6L IVF, unasyn (h/o
   unasyn-resistant UTI). Started on dexamethasone in ED. Switched to
   cipro/vanco in MICU. GNR bacteremia.
   24 Hour Events:
 PRESEP CATHETER - START [**2101-5-22**] 07:00 PM
   started in ew
 BLOOD CULTURED - At [**2101-5-22**] 08:15 PM
 EKG - At [**2101-5-23**] 12:00 AM
 ARTERIAL LINE - START [**2101-5-23**] 01:00 AM
 FEVER - 102.6
F - [**2101-5-22**] 06:51 PM
   Weaned off levophed overnight.
   Total in 10L, 1L out.
   Patient unable to provide history: Sedated
   Allergies:
   Zestril (Oral) (Lisinopril)
   Cough;
   Bactrim Ds (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Flagyl (Oral) (Metronidazole)
   Rash;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2101-5-22**] 08:00 PM
   Vancomycin - [**2101-5-22**] 08:00 PM
   Infusions:
   Midazolam (Versed) - 5 mg/hour
   Insulin - Regular - 7 units/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Fentanyl - [**2101-5-23**] 12:20 AM
   Midazolam (Versed) - [**2101-5-23**] 12:28 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2101-5-23**] 09:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.6
   Tcurrent: 37.6
C (99.7
   HR: 98 (90 - 124) bpm
   BP: 131/70(93) {89/54(0) - 180/79(328)} mmHg
   RR: 22 (0 - 23) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 66 Inch
   CVP: 14 (13 - 27)mmHg
   CO/CI (Fick): (4.5 L/min) / (2.2 L/min/m2)
   SvO2: 62%
   Total In:
                                                                  9,967 mL
                                                                  1,101 mL
   PO:
   TF:
   IVF:
                                                                  3,967 mL
                                                                  1,101 mL
   Blood products:
   Total out:
                                                                  1,090 mL
                                                                    232 mL
   Urine:
                                                                    390 mL
                                                                    232 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  8,877 mL
                                                                    869 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 600) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Hemodynamic Instability
   PIP: 27 cmH2O
   SpO2: 100%
   ABG: 7.34/24/95.[**Numeric Identifier 607**]/11/-10
   Ve: 9.9 L/min
   PaO2 / FiO2: 190
   Physical Examination
   General Appearance: Overweight / Obese, Central obesity
   Eyes / Conjunctiva: eyelids taped closed
   Head, Ears, Nose, Throat: Endotracheal tube
   Lymphatic: obese neck
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : ), no secretions
   Abdominal: Soft, No(t) Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Cool
   Neurologic: No(t) Follows simple commands, Responds to: Unresponsive,
   Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   9.5 g/dL
   209 K/uL
   213 mg/dL
   1.1 mg/dL
   11 mEq/L
   4.7 mEq/L
   20 mg/dL
   119 mEq/L
   142 mEq/L
   30.2 %
   24.9 K/uL
        [image002.jpg]
                             [**2101-5-22**]  07:23 PM
                             [**2101-5-22**]  08:39 PM
                             [**2101-5-22**]  11:28 PM
                             [**2101-5-23**]  03:17 AM
                             [**2101-5-23**]  06:35 AM
                             [**2101-5-23**]  06:47 AM
   WBC
   20.2
   24.9
   Hct
   30.2
   30.2
   Plt
   198
   209
   Cr
   1.3
   1.1
   1.1
   TropT
   0.28
   TCO2
   17
   14
   Glucose
   238
   170
   218
   213
   Other labs: PT / PTT / INR:16.0/35.6/1.4, CK / CKMB /
   Troponin-T:1878/12/0.28, Amylase / Lipase:27/11, Lactic Acid:1.8
   mmol/L, Ca++:7.2 mg/dL, Mg++:1.9 mg/dL, PO4:2.8 mg/dL
   Imaging: retrocardiac opacity
   Microbiology: GNR urine, blood
   Assessment and Plan
   Septic shock - urosepsis. Also new retrocardiac opacity but no
   secretions. D/C dex. Cont Cipro/vanco
   Metabolic nongap acidosis with AG 12. 10L NS with hyperchloremic nongap
   acidosis.
   Resp failure
 respiratory alkalosis to compensate for metabolic
   acidosis. Poor PaO2/FiO2 ratio but likely reflection of pulmonary edema
   after aggressive resuscitation.
   Cardiac: [**2096**] echo preserved EF with diast dysfn. Elevated troponin but
   negative CKMB.
   Severe hypophos, hypokalemia caused by combination of poor PO intake,
   insulin administration, pos pressure ventilation, unknown antacid
   intake. Repleted.
   ICU Care
   Nutrition: NPO anticipating rapid extubation within next 24 hrs.
   Glycemic Control:
   Lines:
   Presep Catheter - [**2101-5-22**] 07:00 PM
   18 Gauge - [**2101-5-22**] 07:00 PM
   Arterial Line - [**2101-5-23**] 01:00 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   Code status: Full code
   Disposition :ICU
   Total time spent: 60 minutes
   Patient is critically ill

2101-05-24 07:22:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 102.2
F - [**2101-5-23**] 10:30 AM
   spiked to 101.8 in a.m.- cefepime added to cipro
   ICU consent signed
   CKs continue to rise but TnT trending down, MB not increasing
   vancomycin discontinued
   Creatinine increased from 1.1 to 1.2, urine lytes / u/a sent, cr in
   a.m. 1.0
   insulin drip switched to sc insulin
   weaned off versed, patient still only responding to verbal stimuli but
   not following commands, planned to keep on propofol until a.m. for
   extubation, agitated with fentanyl alone or propofol so switched back
   to versed
   anemia worsening- hemolysis labs / retic / smear / iron / b12 / folate
   added on
   Allergies:
   Zestril (Oral) (Lisinopril)
   Cough;
   Bactrim Ds (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Flagyl (Oral) (Metronidazole)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2101-5-23**] 08:00 AM
   Ciprofloxacin - [**2101-5-23**] 07:31 PM
   Cefipime - [**2101-5-24**] 05:48 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2101-5-23**] 10:00 PM
   Heparin Sodium (Prophylaxis) - [**2101-5-24**] 03:59 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2101-5-24**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39
C (102.2
   Tcurrent: 36.9
C (98.5
   HR: 111 (99 - 127) bpm
   BP: 126/58(83) {86/49(63) - 138/72(97)} mmHg
   RR: 18 (14 - 25) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 66 Inch
    CVP: 22 (8 - 25)mmHg
   Total In:
                                                                  2,092 mL
                                                                    212 mL
   PO:
   TF:
   IVF:
                                                                  2,002 mL
                                                                    212 mL
   Blood products:
   Total out:
                                                                  1,032 mL
                                                                    460 mL
   Urine:
                                                                  1,017 mL
                                                                    460 mL
   NG:
                                                                     15 mL
   Stool:
   Drains:
   Balance:
                                                                  1,060 mL
                                                                   -248 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 0) mL
   Vt (Spontaneous): 660 (660 - 710) mL
   PS : 10 cmH2O
   RR (Set): 0
   RR (Spontaneous): 20
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 31
   PIP: 19 cmH2O
   SpO2: 99%
   ABG: 7.31/31/124/15/-9
   Ve: 14.8 L/min
   PaO2 / FiO2: 248
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Non -purposeful, Tone: Normal
   Labs / Radiology
   180 K/uL
   8.5 g/dL
   117 mg/dL
   1.0 mg/dL
   15 mEq/L
   4.8 mEq/L
   22 mg/dL
   121 mEq/L
   144 mEq/L
   26.6 %
   33.2 K/uL
        [image002.jpg]
                             [**2101-5-23**]  06:35 AM
                             [**2101-5-23**]  06:47 AM
                             [**2101-5-23**]  08:58 AM
                             [**2101-5-23**]  12:47 PM
                             [**2101-5-23**]  01:02 PM
                             [**2101-5-23**]  02:08 PM
                             [**2101-5-23**]  03:36 PM
                             [**2101-5-23**]  06:09 PM
                             [**2101-5-24**]  04:34 AM
                             [**2101-5-24**]  06:41 AM
   WBC
   24.9
   33.2
   Hct
   30.2
   26.6
   Plt
   209
   180
   Cr
   1.1
   1.2
   1.0
   TropT
   0.36
   0.33
   0.25
   TCO2
   14
   15
   19
   15
   16
   16
   16
   Glucose
   [**Telephone/Fax (3) 3231**]
   Other labs: PT / PTT / INR:15.0/38.8/1.3, CK / CKMB /
   Troponin-T:3539/27/0.25, Amylase / Lipase:27/11, Lactic Acid:1.2
   mmol/L, Ca++:7.5 mg/dL, Mg++:2.1 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 339**] [**Known lastname 3190**] is a 58 year old female with history of DM2, HTN,
   hypercholesterolemia, GERD who presents with sepsis likely from
   pyelonephritis.
   .
   # Urosepsis: Pyelonephritis with bandemia, fevers, and hypotension.  CT
   scan with left perinephric fat stranding and asymmetrical enlargement
   with a small amount of free fluid is seen in the left paracolic
   gutter.  UA positive for infection.  No evidence for other abdominal
   infection. Now growing GNRs in urine and blood. CXR with ? new
   retrocardiac opacity but likely atelectasis.
   - Discontinue vanco as growing GNRs.
   - Continue with Cipro for GNR coverage
   - Follow micro data: urine, blood and stool cultures
   - D/C steroids
   - Keep CVP between >12
   - Trend lactate, bands on CBC.  Monitor fever curve and treat with
   acetaminophen
   - Holding oral antihypertensive agents - Diovan, HCTZ
   .
   # Respiratory distress: Occurred in ED during fever, rigors.  Minimal
   fluid overload on cxr. Now with metabolic acidosis. Will keep intubated
   until acidosis improves. Consider SBT later today if acidosis
   improving.
   - Mouth care, HOB elevation, daily wake up
   - Versed/Fentanyl for sedation.  Hold further propofol as patient
   became hypotensive.
   .
   # Altered mental status:
   .
   # Elevated CK:
   .
   # Acute renal failure: Likely prerenal etiology. Creatinine trending
   down.
   - Hydrate as above.  Trend creatinine
   .
   # Diabetes mellitus: Last A1c 12.9 in [**2101-4-4**].  Ketones noted on
   initial UA
   .
   - No gap on chemistry, but continue to monitor.
   - Will restart standing insulin 70U later today if FS normalize.
   .
   # Hypercholesterolemia
   - Continue outpatient regimen.
   .
   # GERD:
   - Continue PPI.
   .
   #FEN
   - NPO as diet overnight.  If not able to extubate, start tube feeds
   - IVF bolus to maintain CVP >12
   - replete lytes PRN
   .
   #ACCESS: PIV x3, subclavian line
   .
   #PPx
    - Heparin sub-q for DVT prophylaxis
   - replete lytes PRN
   - bowel meds
   .
   #CODE: FULL
   .
   #COMMUNICATION: [**Name (NI) **] (husband) [**Telephone/Fax (1) 3192**], [**Name (NI) 163**] [**Name (NI) 3193**] (sister)
   [**Telephone/Fax (1) 3194**]
   .
   #DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Presep Catheter - [**2101-5-22**] 07:00 PM
   18 Gauge - [**2101-5-22**] 07:00 PM
   Arterial Line - [**2101-5-23**] 01:00 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP: Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2101-05-24 09:09:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   58 yo woman with DM, HTN, admitted with urosepsis, shock.
   24 Hour Events:
 FEVER - 102.2
F - [**2101-5-23**] 10:30 AM
   Spiked temp last night, cefipime added.
   Difficulty with sedation- poor response to fentanyl and propofol,
   restarted on versed.
                                Patient unable to provide history: intubated
   Allergies:
   Zestril (Oral) (Lisinopril)
   Cough;
   Bactrim Ds (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Flagyl (Oral) (Metronidazole)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2101-5-23**] 08:00 AM
   Cefipime - [**2101-5-24**] 05:48 AM
   Ciprofloxacin - [**2101-5-24**] 08:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2101-5-23**] 10:00 PM
   Heparin Sodium (Prophylaxis) - [**2101-5-24**] 03:59 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2101-5-24**] 09:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39
C (102.2 at 10am yest
   Tcurrent: 37.4
C (99.4
   HR: 113 (99 - 127) bpm
   BP: 147/66(95) {86/49(63) - 147/72(97)} mmHg
   RR: 20 (14 - 25) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 66 Inch
   CVP: 17 (8 - 25)mmHg
   Total In:
                                                                  2,092 mL
                                                                    429 mL
   PO:
   TF:
   IVF:
                                                                  2,002 mL
                                                                    429 mL
   Blood products:
   Total out:
                                                                  1,032 mL
                                                                    650 mL
   Urine:
                                                                  1,017 mL
                                                                    650 mL
   NG:
                                                                     15 mL
   Stool:
   Drains:
   Balance:
                                                                  1,060 mL
                                                                   -221 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 0) mL
   Vt (Spontaneous): 658 (658 - 710) mL
   PS : 10 cmH2O
   RR (Set): 0
   RR (Spontaneous): 18
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 31
   PIP: 19 cmH2O
   SpO2: 99%
   ABG: 7.31/31/124/15/-9
   Ve: 15.1 L/min
   PaO2 / FiO2: 248
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: Sclera edema
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : ), minimal thin secretions
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Not assessed, No(t) Rash:
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.5 g/dL
   180 K/uL
   117 mg/dL
   1.0 mg/dL
   15 mEq/L
   4.8 mEq/L
   22 mg/dL
   121 mEq/L
   144 mEq/L
   26.6 %
   33.2 K/uL
        [image002.jpg]
                             [**2101-5-23**]  06:35 AM
                             [**2101-5-23**]  06:47 AM
                             [**2101-5-23**]  08:58 AM
                             [**2101-5-23**]  12:47 PM
                             [**2101-5-23**]  01:02 PM
                             [**2101-5-23**]  02:08 PM
                             [**2101-5-23**]  03:36 PM
                             [**2101-5-23**]  06:09 PM
                             [**2101-5-24**]  04:34 AM
                             [**2101-5-24**]  06:41 AM
   WBC
   24.9
   33.2
   Hct
   30.2
   26.6
   Plt
   209
   180
   Cr
   1.1
   1.2
   1.0
   TropT
   0.36
   0.33
   0.25
   TCO2
   14
   15
   19
   15
   16
   16
   16
   Glucose
   [**Telephone/Fax (3) 3231**]
   Other labs: PT / PTT / INR:15.0/38.8/1.3, CK / CKMB /
   Troponin-T:3539/27/0.25, Amylase / Lipase:27/11, Lactic Acid:1.2
   mmol/L, Ca++:7.5 mg/dL, Mg++:2.1 mg/dL, PO4:3.0 mg/dL
   Microbiology: Blood, urine GNR
   Assessment and Plan
   Urosepsis, initially hypotensive, briefly required pressor to maintain
   MAP > 60, normotensive since 9hrs after arrival. Pending speciation of
   GNR.
   Resp failure. Intubated in setting of acute septic shock, mental status
   changes. Doing well on PEEP 0, PS 5. Excellent mechanics. Extubation
   hinging on mental status.
   Mental status issues. Awake but inattentive, does not follow commands,
   mildly agitated. Responds poorly to propofol. Diff dx of delerium:
   deleriogenic sedatives (versed), sepsis, possible ingestion prior to
   admission (outpt med list does not suggest culprit). Plan Haldol now
   and fentanyl boluses if necessary and trial of extubation in a couple
   of hours. If she remains agitated despite haldol and fentanyl will try
   dexmedetomidine.
   Urosepsis. Cefipime/cipro.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2101-5-22**] 07:00 PM
   18 Gauge - [**2101-5-22**] 07:00 PM
   Arterial Line - [**2101-5-23**] 01:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2101-05-25 07:34:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2101-5-24**] 01:12 PM
 BLOOD CULTURED - At [**2101-5-24**] 02:10 PM
   1x2
 EKG - At [**2101-5-24**] 03:30 PM
 BLOOD CULTURED - At [**2101-5-24**] 04:00 PM
   2x2
 URINE CULTURE - At [**2101-5-24**] 04:00 PM
 FEVER - 103.2
F - [**2101-5-24**] 02:00 PM
   Allergies:
   Zestril (Oral) (Lisinopril)
   Cough;
   Bactrim Ds (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Flagyl (Oral) (Metronidazole)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2101-5-23**] 08:00 AM
   Ciprofloxacin - [**2101-5-24**] 08:00 PM
   Cefipime - [**2101-5-25**] 06:08 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2101-5-25**] 12:18 AM
   Furosemide (Lasix) - [**2101-5-25**] 12:34 AM
   Heparin Sodium (Prophylaxis) - [**2101-5-25**] 04:12 AM
   Haloperidol (Haldol) - [**2101-5-25**] 05:15 AM
   Midazolam (Versed) - [**2101-5-25**] 06:07 AM
   Fentanyl - [**2101-5-25**] 06:08 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2101-5-25**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.6
C (103.2
   Tcurrent: 37.5
C (99.5
   HR: 78 (75 - 147) bpm
   BP: 117/78(93) {66/38(49) - 196/96(130)} mmHg
   RR: 19 (11 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
    CVP: 16 (9 - 26)mmHg
   Total In:
                                                                  3,411 mL
                                                                    384 mL
   PO:
   TF:
   IVF:
                                                                  3,361 mL
                                                                    384 mL
   Blood products:
   Total out:
                                                                  1,794 mL
                                                                    560 mL
   Urine:
                                                                  1,794 mL
                                                                    560 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,617 mL
                                                                   -176 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 0 (0 - 658) mL
   PS : 10 cmH2O
   RR (Set): 20
   RR (Spontaneous): 2
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 28
   PIP: 29 cmH2O
   SpO2: 100%
   ABG: 7.33/31/136/15/-8
   Ve: 10.1 L/min
   PaO2 / FiO2: 272
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Diminished: at bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm, No(t) Rash:
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, No(t) Oriented (to): , Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   161 K/uL
   7.8 g/dL
   211 mg/dL
   1.3 mg/dL
   15 mEq/L
   4.2 mEq/L
   24 mg/dL
   117 mEq/L
   140 mEq/L
   24.5 %
   28.2 K/uL
        [image002.jpg]
                             [**2101-5-24**]  11:45 AM
                             [**2101-5-24**]  12:44 PM
                             [**2101-5-24**]  02:07 PM
                             [**2101-5-24**]  02:19 PM
                             [**2101-5-24**]  02:33 PM
                             [**2101-5-24**]  03:34 PM
                             [**2101-5-24**]  05:38 PM
                             [**2101-5-24**]  05:48 PM
                             [**2101-5-25**]  03:57 AM
                             [**2101-5-25**]  06:44 AM
   WBC
   25.0
   28.2
   Hct
   26.7
   23.7
   24.5
   Plt
   179
   161
   Cr
   1.1
   1.3
   1.3
   TropT
   0.36
   TCO2
   16
   17
   18
   18
   16
   17
   17
   Glucose
   166
   162
   211
   Other labs: PT / PTT / INR:14.8/36.6/1.3, CK / CKMB /
   Troponin-T:2209/10/0.36, ALT / AST:53/88, Alk Phos / T Bili:72/0.2,
   Amylase / Lipase:27/11, Differential-Neuts:85.0 %, Band:4.0 %,
   Lymph:10.0 %, Mono:1.0 %, Eos:0.0 %, Fibrinogen:822 mg/dL, Lactic
   Acid:1.4 mmol/L, Albumin:2.9 g/dL, LDH:395 IU/L, Ca++:7.8 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.8 mg/dL
   Imaging: CT HEAD:There is no acute intracranial hemorrhage. There is no
   evidence of
   major vascular territorial infarct. There is no edema, shift of
   normally
   midline structures, or effacement of basilar cisterns. The [**Doctor Last Name 734**]-white
   matter
   differentiation is preserved.
   There is no fracture. There has been interval increase in soft tissue
   swelling of the nasopharynx, likely related to prolonged intubation.
   Small
   air-fluid level is noted in the sphenoid sinuses. The other sinuses
   remain
   well aerated.
   IMPRESSION: No intracranial hemorrhage or evidence of vascular
   territorial
   infarcts.
   CT CHEST:Moderate bilateral pleural effusions with associated
   atelectasis,
   redistribution of pulmonary vasculature, perihilar opacities and
   cardiomegaly
   are all consistent with moderate heart failure/fluid overload. No focal
   consolidation to suggest pneumonia.
   Microbiology: CITROBACTER FREUNDII COMPLEX.    >100,000 ORGANISMS/ML..
   This organism may develop resistance to third generation cephalosporins
   during prolonged therapy. Therefore, isolates that are initially
   susceptible may become resistant within three to
   four days after initiation of therapy.  For serious infections, repeat
   culture and sensitivity testing may therefore be warranted if third
   generation cephalosporins were used.
   Pansensitive
   Assessment and Plan
   Ms. [**Known lastname 339**] [**Known lastname 3190**] is a 58 year old female with history of DM2, HTN,
   hypercholesterolemia, GERD who presents with sepsis likely from
   pyelonephritis.
   # Urosepsis: Pyelonephritis with bandemia, fevers, and hypotension.
   Growing citrobacter in urine. Blood cx not yet speciated- both are
   pansensitive.
   - Continue with Cipro
   - D/c cefepime
   - Follow micro data: urine, blood and stool cultures
   - Keep CVP between >12
   - Trend lactate, bands on CBC.  Lactate improved.
   - Monitor fever curve and treat with acetaminophen
   - Holding oral antihypertensive agents - Diovan, HCTZ
   .
   # Respiratory distress: Attempted extubation yesterday but patient
   mental status altered, bp elevated to 220 and tachycardic. Sats
   dropped. ABG with p02 of 60. Reintubated. Persistently agitated on
   dexmedetomidine. Underwent CT chest with evidence of pulmonary edema.
   Likely secondary to flash pulmonary edema given known history of
   diastolic dysfunction. Also possibly due to upper airway obstruction.
   - diuresis as bp tolerates- goal 1L negative
   - Mouth care, HOB elevation, daily wake up
   - SBT on 0/0 and possible extubation
   - Give heliox and racemic epi if develops upper airway obstruction on
   subsequent extubation
   .
   # Altered mental status:  Likely secondary to benzos or septic
   encephalopathy. No obvious focal deficits  and CT head on admission
   negative. Yesterday continued to be agitated and switched sedation to
   dexmedetomidine which resulted in refractory hypotension despite max
   dose of levophed and neo. D/c'd dexmedetomidine but patient still
   agitated on vent. Therefore had to restart versed while intubated. Had
   CT head that was again negative.
   - Attempt propofol for sedation
   - avoid benzos
   - continue daily wakeups and SBT with plan for extubation
   .
   # Elevated CK: Likely rhabdo secondary to either sepsis or electrolyte
   abnormalities ( ie hypokalemia, hypophosphatemia on admission). Also
   possible component of demand ischemia given elevated troponin but
   minimal MB fraction. CK now trending down
   .
   # Acute renal failure: Likely prerenal etiology. Bumped to 1.3. Very
   hypotensive yesterday requiring fluid boluses and pressors.
   -  Trend creatinine
   - Keep MAP above 60
   - Avoid nephrotoxins
   - Renally dose meds
   .
   # Diabetes mellitus: Last A1c 12.9 in [**2101-4-4**].  Ketones noted on
   initial UA
   .
   - No gap on chemistry, but continue to monitor.
   - On glargine 55U plus RISS
   .
   # Anemia: Per iron studies, likely both iron deficiency and anemia of
   chronic disease
   - start iron supplementation
   - transfuse for HCT less than 21
   # Hypercholesterolemia
   - D/c statin given high CKs
   .
   # GERD:
   - Continue PPI.
   .
   #FEN
   - start D5
; consider tube feeds
   - IVF bolus to maintain CVP >12
   - replete lytes PRN
   #ACCESS: PIV x3, subclavian line
   .
   #PPx
    - Heparin sub-q for DVT prophylaxis
   - replete lytes PRN
   - bowel meds
   .
   #CODE: FULL
   .
   #COMMUNICATION: [**Name (NI) **] (husband) [**Telephone/Fax (1) 3192**], [**Name (NI) 163**] [**Name (NI) 3193**] (sister)
   [**Telephone/Fax (1) 3194**]
   .
   #DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Presep Catheter - [**2101-5-22**] 07:00 PM
   18 Gauge - [**2101-5-22**] 07:00 PM
   Arterial Line - [**2101-5-23**] 01:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2101-05-25 11:30:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2101-5-24**] 01:12 PM
 BLOOD CULTURED - At [**2101-5-24**] 02:10 PM
   1x2
 EKG - At [**2101-5-24**] 03:30 PM
 BLOOD CULTURED - At [**2101-5-24**] 04:00 PM
   2x2
 URINE CULTURE - At [**2101-5-24**] 04:00 PM
 FEVER - 103.2
F - [**2101-5-24**] 02:00 PM
   Extubated yesterday but failed quickly with tachycardia/HTN, tachypnea,
   wheeze, and agitation.  Re-intubated.  Per anesthesia, no clear upper
   airway obstruction but arytenoids appeared large.
   Later in the afternoon, precedex started with immediate hypotension
   requiring 2 pressors.  Shortly after precedex stopped, pressors were
   able to be weaned off.
   Patient unable to provide history: Sedated
   Allergies:
   Zestril (Oral) (Lisinopril)
   Cough;
   Bactrim Ds (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Flagyl (Oral) (Metronidazole)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2101-5-23**] 08:00 AM
   Cefipime - [**2101-5-25**] 06:08 AM
   Ciprofloxacin - [**2101-5-25**] 08:00 AM
   Infusions:
   Midazolam (Versed) - 5 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2101-5-25**] 12:18 AM
   Heparin Sodium (Prophylaxis) - [**2101-5-25**] 04:12 AM
   Haloperidol (Haldol) - [**2101-5-25**] 05:15 AM
   Fentanyl - [**2101-5-25**] 06:08 AM
   Furosemide (Lasix) - [**2101-5-25**] 07:45 AM
   Midazolam (Versed) - [**2101-5-25**] 09:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2101-5-25**] 11:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.6
C (103.2
   Tcurrent: 37.6
C (99.6
   HR: 102 (75 - 147) bpm
   BP: 143/77(93) {76/44(51) - 179/80(104)} mmHg
   RR: 19 (11 - 22) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 66 Inch
   CVP: 18 (9 - 25)mmHg
   Total In:
                                                                  3,411 mL
                                                                    801 mL
   PO:
   TF:
   IVF:
                                                                  3,361 mL
                                                                    741 mL
   Blood products:
   Total out:
                                                                  1,794 mL
                                                                  1,940 mL
   Urine:
                                                                  1,794 mL
                                                                  1,860 mL
   NG:
                                                                     80 mL
   Stool:
   Drains:
   Balance:
                                                                  1,617 mL
                                                                 -1,139 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 20
   RR (Spontaneous): 3
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 28
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.33/31/136/15/-8
   Ve: 12.9 L/min
   PaO2 / FiO2: 272
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed, No(t) Rash:
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.8 g/dL
   161 K/uL
   211 mg/dL
   1.3 mg/dL
   15 mEq/L
   4.2 mEq/L
   24 mg/dL
   117 mEq/L
   140 mEq/L
   24.5 %
   28.2 K/uL
        [image002.jpg]
                             [**2101-5-24**]  11:45 AM
                             [**2101-5-24**]  12:44 PM
                             [**2101-5-24**]  02:07 PM
                             [**2101-5-24**]  02:19 PM
                             [**2101-5-24**]  02:33 PM
                             [**2101-5-24**]  03:34 PM
                             [**2101-5-24**]  05:38 PM
                             [**2101-5-24**]  05:48 PM
                             [**2101-5-25**]  03:57 AM
                             [**2101-5-25**]  06:44 AM
   WBC
   25.0
   28.2
   Hct
   26.7
   23.7
   24.5
   Plt
   179
   161
   Cr
   1.1
   1.3
   1.3
   TropT
   0.36
   TCO2
   16
   17
   18
   18
   16
   17
   17
   Glucose
   166
   162
   211
   Other labs: PT / PTT / INR:14.8/36.6/1.3, CK / CKMB /
   Troponin-T:2209/10/0.36, ALT / AST:53/88, Alk Phos / T Bili:72/0.2,
   Amylase / Lipase:27/11, Differential-Neuts:85.0 %, Band:4.0 %,
   Lymph:10.0 %, Mono:1.0 %, Eos:0.0 %, Fibrinogen:822 mg/dL, Lactic
   Acid:1.4 mmol/L, Albumin:2.9 g/dL, LDH:395 IU/L, Ca++:7.8 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   1.)  Urosepsis:  Growing GNR from blood and urine.  Urine Cx speciated
   as citrobacter.
             -D/c cefepime, continue cipro for 2 week course
   2.) Resp failure:  Unclear etiology of failure yesterday. Possibilities
   include upper airway obstruction, flash pulmonary edema
   (tachy/hypertensive and LVH on old echo), and agitation.
                        -Changed to PSV again today and SBT on 0/0
                        -Diurese today
                        -Check cuff leak
   3.) Altered Mental status:  Continued agitation overnight on 3 of
   versed.  Currently on 5.  Head CT with no acute change. Likely
   etiologies include septic delirium and medication effect. Status
   epilepticus less likely but possible.
        -Change benzo's to propofol and daily wake-ups
        -If AMS persists, will get EEG.
   4.) Rhabdo:  CPK's now trending down.
   5.)  FEN:  Start TF today.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2101-5-22**] 07:00 PM
   18 Gauge - [**2101-5-22**] 07:00 PM
   Arterial Line - [**2101-5-23**] 01:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2101-05-26 07:55:00 Physician Resident Progress Note
Chief Complaint: Urosepsis- Pyelonephritis
   24 Hour Events:
   FEVER - 102.6
F - [**2101-5-25**] 06:00 PM
   Growing citrobacter out of [**3-11**] blood cx bottles.
   Repeat urine culture no growth final
   Lytes stable
   Placed new L IJ as ? of leak at site of R subclavian
   SBT in AM on 0/0
   Continued diuresis- negative 1.7 L
   Allergies:
   Zestril (Oral) (Lisinopril)
   Cough;
   Bactrim Ds (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Flagyl (Oral) (Metronidazole)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2101-5-23**] 08:00 AM
   Cefipime - [**2101-5-25**] 06:08 AM
   Ciprofloxacin - [**2101-5-25**] 08:01 PM
   Infusions:
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2101-5-25**] 07:45 AM
   Midazolam (Versed) - [**2101-5-25**] 09:00 AM
   Haloperidol (Haldol) - [**2101-5-25**] 12:30 PM
   Pantoprazole (Protonix) - [**2101-5-25**] 08:01 PM
   Heparin Sodium (Prophylaxis) - [**2101-5-26**] 03:58 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Nutritional Support: Tube feeds
   Flowsheet Data as of  [**2101-5-26**] 07:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.6
   Tcurrent: 37.1
C (98.8
   HR: 89 (85 - 102) bpm
   BP: 111/87(97) {84/52(64) - 171/106(119)} mmHg
   RR: 20 (15 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
    CVP: 9 (9 - 19)mmHg
   Total In:
                                                                  1,389 mL
                                                                    232 mL
   PO:
   TF:
   IVF:
                                                                  1,269 mL
                                                                    232 mL
   Blood products:
   Total out:
                                                                  3,060 mL
                                                                    640 mL
   Urine:
                                                                  2,960 mL
                                                                    640 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,671 mL
                                                                   -408 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 400 (400 - 611) mL
   PS : 10 cmH2O
   RR (Set): 20
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 65
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: 7.38/31/157/19/-5
   Ve: 9.7 L/min
   PaO2 / FiO2: 314
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL, + oculocephalic reflex
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: transmitted upper airway sounds bilaterally)
   Extremities: Right: Absent, Left: Absent, no stigmata of endocarditis
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   192 K/uL
   7.9 g/dL
   143 mg/dL
   1.1 mg/dL
   19 mEq/L
   4.1 mEq/L
   21 mg/dL
   117 mEq/L
   145 mEq/L
   24.7 %
   23.6 K/uL
        [image002.jpg]
                             [**2101-5-24**]  02:33 PM
                             [**2101-5-24**]  03:34 PM
                             [**2101-5-24**]  05:38 PM
                             [**2101-5-24**]  05:48 PM
                             [**2101-5-25**]  03:57 AM
                             [**2101-5-25**]  06:44 AM
                             [**2101-5-25**]  02:44 PM
                             [**2101-5-25**]  03:08 PM
                             [**2101-5-25**]  10:01 PM
                             [**2101-5-26**]  04:27 AM
   WBC
   25.0
   28.2
   23.6
   Hct
   23.7
   24.5
   24.7
   Plt
   179
   161
   192
   Cr
   1.3
   1.3
   1.1
   1.1
   1.1
   TropT
   0.36
   TCO2
   18
   16
   17
   17
   19
   Glucose
   162
   211
   135
   139
   143
   Other labs: PT / PTT / INR:14.8/36.6/1.3, CK / CKMB /
   Troponin-T:2209/10/0.36, ALT / AST:53/88, Alk Phos / T Bili:72/0.2,
   Amylase / Lipase:27/11, Differential-Neuts:85.0 %, Band:4.0 %,
   Lymph:10.0 %, Mono:1.0 %, Eos:0.0 %, Fibrinogen:822 mg/dL, Lactic
   Acid:1.4 mmol/L, Albumin:2.9 g/dL, LDH:395 IU/L, Ca++:8.1 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 339**] [**Known lastname 3190**] is a 58 year old female with history of DM2, HTN,
   hypercholesterolemia, GERD who presents with sepsis likely from
   pyelonephritis.
   # Urosepsis: Pyelonephritis with bandemia, fevers, and hypotension.
   Growing citrobacter in urine. Blood cx not yet speciated- both are
   pansensitive.
   -continue cipro as blood and urine are growing pan sensitive
   citrobacter
   -surveillance cultures negative but continues to be febrile, wbc
   trending downward
   -hemodynamically stable (holding diovan and hctz- home
   antihypertensives)
   -culture if spikes
   # Respiratory distress: failed 1 x attempt at extubation.
   -diuresing well, continue to diurese with goal 1-2 liters today
   -SBT this a.m. with goal for extubation (0/0)
   -sedation is propofol and keeping her well controlled
   -check for cuff leak prior to extubation
   - Give heliox and racemic epi if develops upper airway obstruction on
   subsequent extubation
   # Altered mental status:  if MS still altered would need to rule out
   non convulsive status.  Call neuro for EEG.
   -in addition given mental status changes and fevers may be useful to
   obtain an MRI to rule out meningneal enhancement as may increase
   likelihood for menginitis, however given urosepsis and clear pyelo on
   CT this is unlikely
   - avoid benzos
   # Elevated CK: trending [**Last Name (un) 3254**], continue to trend.  Likely rhabdo
   secondary to either sepsis or electrolyte abnormalities ( ie
   hypokalemia, hypophosphatemia on admission). Also possible component of
   demand ischemia given elevated troponin but minimal MB fraction. CK now
   trending down
   # Acute renal failure: improved.   Likely was pre renal.
   - Keep MAP above 60
   - Avoid nephrotoxins
   - Renally dose meds
   # Diabetes mellitus: Last A1c 12.9 in [**2101-4-4**].  Ketones noted on
   initial UA
   -lantus last night was held as tube feeds were held
   -give 15 of NPH now and cover with sliding scale, continue qhs lantus
   (can decrease dose to 40 if NPO, 55 if tube feeds or diet have started)
   -RISS
   # Anemia: Per iron studies, likely both iron deficiency and anemia of
   chronic disease
   - start iron supplementation
   - transfuse for HCT less than 21
   # Hypercholesterolemia
   - D/c statin given high CKs
   # GERD:
   - Continue PPI.
   #FEN: tube feeds or diet depending on ability to extubate
   - replete lytes PRN
   #ACCESS: PIV x3, L IJ.  Art Line- dampened
   #PPx
    - Heparin sub-q for DVT prophylaxis
   - replete lytes PRN
   - bowel meds
   #CODE: FULL
   #COMMUNICATION: [**Name (NI) **] (husband) [**Telephone/Fax (1) 3192**], [**Name (NI) 163**] [**Name (NI) 3193**] (sister)
   [**Telephone/Fax (1) 3194**]
   #DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2101-5-22**] 07:00 PM
   Arterial Line - [**2101-5-23**] 01:00 AM
   Multi Lumen - [**2101-5-25**] 08:07 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition:ICU

2101-05-27 07:19:00 Physician Resident Progress Note
Chief Complaint: AMS, Urosepsis
   24 Hour Events:
   Pt had ARTERIAL LINE placed on  [**2101-5-26**]. Mental status persistently
   altered. On T piece until evening- then switched to PS of [**4-11**].
   Allergies:
   Zestril (Oral) (Lisinopril)
   Cough;
   Bactrim Ds (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Flagyl (Oral) (Metronidazole)
   Rash;
   Last dose of Antibiotics:
   Cefipime - [**2101-5-25**] 06:08 AM
   Ciprofloxacin - [**2101-5-26**] 07:33 PM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Haloperidol (Haldol) - [**2101-5-26**] 09:42 AM
   Fentanyl - [**2101-5-26**] 09:45 AM
   Furosemide (Lasix) - [**2101-5-26**] 10:00 AM
   Heparin Sodium (Prophylaxis) - [**2101-5-27**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2101-5-27**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.1
C (98.7
   HR: 93 (89 - 111) bpm
   BP: 161/67(90) {133/54(74) - 174/80(101)} mmHg
   RR: 18 (14 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  1,361 mL
                                                                    329 mL
   PO:
             TF:
                                                                    151 mL
                                                                    125 mL
   IVF:
                                                                  1,060 mL
                                                                    203 mL
   Blood products:
   Total out:
                                                                  4,580 mL
                                                                    760 mL
   Urine:
                                                                  4,580 mL
                                                                    760 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,219 mL
                                                                   -431 mL
   Respiratory support
   O2 Delivery Device: T-piece
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 542 (437 - 652) mL
   PS : 5 cmH2O
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 35
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.39/33/128/21/-3
   Ve: 8.9 L/min
   PaO2 / FiO2: 320
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bases b/l)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, Minimally responsive to verbal stimuli
   Labs / Radiology
   215 K/uL
   8.0 g/dL
   165 mg/dL
   0.9 mg/dL
   21 mEq/L
   3.6 mEq/L
   17 mg/dL
   112 mEq/L
   142 mEq/L
   24.5 %
   23.8 K/uL
         [image002.jpg]
                             [**2101-5-24**]  05:48 PM
                             [**2101-5-25**]  03:57 AM
                             [**2101-5-25**]  06:44 AM
                             [**2101-5-25**]  02:44 PM
                             [**2101-5-25**]  03:08 PM
                             [**2101-5-25**]  10:01 PM
                             [**2101-5-26**]  04:27 AM
                             [**2101-5-26**]  08:08 AM
                             [**2101-5-26**]  05:03 PM
                             [**2101-5-27**]  03:50 AM
   WBC
   25.0
   28.2
   23.6
   23.8
   Hct
   23.7
   24.5
   24.7
   24.5
   Plt
   179
   161
   192
   215
   Cr
   1.3
   1.3
   1.1
   1.1
   1.1
   1.1
   0.9
   TropT
   0.36
   TCO2
   17
   19
   21
   Glucose
   162
   211
   135
   139
   143
   124
   165
   Other labs: PT / PTT / INR:14.8/36.6/1.3, CK / CKMB /
   Troponin-T:2209/10/0.36, ALT / AST:53/88, Alk Phos / T Bili:72/0.2,
   Amylase / Lipase:27/11, Differential-Neuts:85.0 %, Band:4.0 %,
   Lymph:10.0 %, Mono:1.0 %, Eos:0.0 %, Fibrinogen:822 mg/dL, Lactic
   Acid:1.4 mmol/L, Albumin:2.9 g/dL, LDH:395 IU/L, Ca++:8.2 mg/dL,
   Mg++:1.7 mg/dL, PO4:4.2 mg/dL
   Microbiology: [**2101-5-26**] 11:26 am SPUTUM      Source: Endotracheal.
      GRAM STAIN (Final [**2101-5-26**]):
         >25 PMNs and <10 epithelial cells/100X field.
         NO MICROORGANISMS SEEN.
      RESPIRATORY CULTURE (Preliminary):
   [**2101-5-24**] 2:08 pm URINE      Source: Catheter.
                               **FINAL REPORT [**2101-5-25**]**
      URINE CULTURE (Final [**2101-5-25**]):    NO GROWTH.
   [**2101-5-24**] 2:08 pm BLOOD CULTURE      Source: Line-central line RSC.
      Blood Culture, Routine (Pending):
   Assessment and Plan:
   Ms. [**Known lastname 339**] [**Known lastname 3190**] is a 58 year old female with history of DM2, HTN,
   hypercholesterolemia, GERD who presents with sepsis likely from
   pyelonephritis.
   # Urosepsis: Pyelonephritis with bandemia, fevers, and hypotension.
   Growing citrobacter in urine. Blood cx not yet speciated- both are
   pansensitive.
   -continue cipro as blood and urine are growing pan sensitive
   citrobacter
   -surveillance cultures negative but continues to be febrile, wbc
   trending downward
   -hemodynamically stable (holding diovan and hctz- home
   antihypertensives)
   -culture if spikes
   # Respiratory distress: failed 1 x attempt at extubation.
   -diuresing well, continue to diurese with goal 1-2 liters today
   -SBT this a.m. with goal for extubation (0/0)
   -sedation is propofol and keeping her well controlled
   -check for cuff leak prior to extubation
   - Give heliox and racemic epi if develops upper airway obstruction on
   subsequent extubation
   # Altered mental status:  if MS still altered would need to rule out
   non convulsive status.
   -currently most likely diagnosis is benzo effect on mental status,
   continue to monitor for improving mental status, if does not clear may
   need to call neuro for EEG to r/o status but very unlikely
   - avoid benzos
   # Elevated CK: trending [**Last Name (un) 3254**], continue to trend.  Likely rhabdo
   secondary to either sepsis or electrolyte abnormalities ( ie
   hypokalemia, hypophosphatemia on admission). Also possible component of
   demand ischemia given elevated troponin but minimal MB fraction. CK now
   trending down
   # Acute renal failure: improved.   Likely was pre renal.
   - Keep MAP above 60
   - Avoid nephrotoxins
   - Renally dose meds
   # Diabetes mellitus: Last A1c 12.9 in [**2101-4-4**].  Ketones noted on
   initial UA
   -lantus last night was held as tube feeds were held
   -give 15 of NPH now and cover with sliding scale, continue qhs lantus
   (can decrease dose to 40 if NPO, 55 if tube feeds or diet have started)
   -RISS
   # Anemia: Per iron studies, likely both iron deficiency and anemia of
   chronic disease
   - start iron supplementation
   - transfuse for HCT less than 21
   # Hypercholesterolemia
   - D/c statin given high CKs
   # GERD:
   - Continue PPI.
   #FEN: tube feeds or diet depending on ability to extubate
   - replete lytes PRN
   #ACCESS: PIV x3, L IJ.  Art Line- dampened
   #PPx
    - Heparin sub-q for DVT prophylaxis
   - replete lytes PRN
   - bowel meds
   #CODE: FULL
   #COMMUNICATION: [**Name (NI) **] (husband) [**Telephone/Fax (1) 3192**], [**Name (NI) 163**] [**Name (NI) 3193**] (sister)
   [**Telephone/Fax (1) 3194**]
   #DISPO: ICU
   ICU Care
   Nutrition:
   Comments: TF
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2101-5-25**] 08:07 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition:ICU

2101-05-28 07:21:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2101-5-27**] 02:15 PM
   Allergies:
   Zestril (Oral) (Lisinopril)
   Cough;
   Bactrim Ds (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Flagyl (Oral) (Metronidazole)
   Rash;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2101-5-27**] 08:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2101-5-28**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2101-5-28**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.6
C (99.6
   HR: 97 (92 - 115) bpm
   BP: 162/69(93) {141/53(78) - 169/79(98)} mmHg
   RR: 22 (18 - 28) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 66 Inch
             Total In:
                                                                  2,043 mL
                                                                    140 mL
   PO:
                                                                    650 mL
             TF:
                                                                    254 mL
   IVF:
                                                                  1,020 mL
                                                                    140 mL
   Blood products:
   Total out:
                                                                  3,500 mL
                                                                    920 mL
   Urine:
                                                                  3,500 mL
                                                                    920 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,457 mL
                                                                   -780 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 231 (231 - 492) mL
   PS : 5 cmH2O
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 43
   PIP: 11 cmH2O
   SpO2: 97%
   ABG: ///22/
   Ve: 9.4 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): Person, place, time, Movement: Purposeful,
   Tone: Not assessed
   Labs / Radiology
   266 K/uL
   8.4 g/dL
   219 mg/dL
   0.8 mg/dL
   22 mEq/L
   3.7 mEq/L
   15 mg/dL
   108 mEq/L
   141 mEq/L
   25.6 %
   25.5 K/uL
        [image002.jpg]
                             [**2101-5-25**]  03:57 AM
                             [**2101-5-25**]  06:44 AM
                             [**2101-5-25**]  02:44 PM
                             [**2101-5-25**]  03:08 PM
                             [**2101-5-25**]  10:01 PM
                             [**2101-5-26**]  04:27 AM
                             [**2101-5-26**]  08:08 AM
                             [**2101-5-26**]  05:03 PM
                             [**2101-5-27**]  03:50 AM
                             [**2101-5-28**]  04:45 AM
   WBC
   28.2
   23.6
   23.8
   25.5
   Hct
   24.5
   24.7
   24.5
   25.6
   Plt
   161
   192
   215
   266
   Cr
   1.3
   1.1
   1.1
   1.1
   1.1
   0.9
   0.8
   TCO2
   17
   19
   21
   Glucose
   [**Telephone/Fax (3) 3292**]43
   124
   165
   219
   Other labs: PT / PTT / INR:14.8/36.6/1.3, CK / CKMB /
   Troponin-T:362/10/0.36, ALT / AST:53/88, Alk Phos / T Bili:72/0.2,
   Amylase / Lipase:27/11, Differential-Neuts:85.0 %, Band:4.0 %,
   Lymph:10.0 %, Mono:1.0 %, Eos:0.0 %, Fibrinogen:822 mg/dL, Lactic
   Acid:1.4 mmol/L, Albumin:2.9 g/dL, LDH:395 IU/L, Ca++:8.6 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.6 mg/dL
   Microbiology: [**2101-5-26**]  SPUTUM GRAM STAIN-FINAL
   > 25 PMNs, < 10 epithelial cells
   [**2101-5-24**]  URINE URINE CULTURE-FINAL No growth
   Assessment and Plan
   Ms. [**Known lastname 339**] [**Known lastname 3190**] is a 58 year old female with history of DM2, HTN,
   hypercholesterolemia, GERD who presents with sepsis from pyelonephritis
   now with improved mental status and s/p extubation.
   .
   .
   # Urosepsis: Pyelonephritis with bandemia, fevers, and hypotension.
   Growing citrobacter in urine and blood.
   -continue cipro as blood and urine are growing pan sensitive
   citrobacter, plan for 14 day course
   -surveillance cultures negative
   - Fever curve trending down, Tm 100.1, wbc still elevated
   -hemodynamically stable
   -culture if spikes
   .
   # Altered mental status:  Pt with significantly improved MS this am.
   Following commands and answering questions appropriately. AMS likely
   due to sepsis and benzodiazepine effect.
   - avoid benzos, continue to monitor
   # Elevated CK: trending [**Last Name (un) 3254**], continue to trend.  Likely rhabdo
   secondary to either sepsis or electrolyte abnormalities ( ie
   hypokalemia, hypophosphatemia on admission). Also possible component of
   demand ischemia given elevated troponin but minimal MB fraction. CK now
   trending down
   # Acute renal failure: improved.   Likely was pre renal.
   # Diabetes mellitus: Last A1c 12.9 in [**2101-4-4**].  Received 18U humalog
   last night. FS elevated in mid 200s-300s.
   - add back basal insulin
   - cover with sliding scale
   - continue FS QID
   # Anemia: Per iron studies, likely both iron deficiency and anemia of
   chronic disease
   - start iron supplementation
   - transfuse for HCT less than 21
   # Hypercholesterolemia
   - holding statin
   # GERD:
   - Continue PPI.
   #FEN:  ADAT, replete lytes PRN,  allow autodiuresis- still 4L positive
   length of stay
   .
   #ACCESS: PIV x3, L IJ- pull line today
   .
   #PPx
    - Heparin sub-q for DVT prophylaxis
   - bowel meds
   - PPI
   #CODE: FULL
   .
   #COMMUNICATION: [**Name (NI) **] (husband) [**Telephone/Fax (1) 3192**], [**Name (NI) 163**] [**Name (NI) 3193**] (sister)
   [**Telephone/Fax (1) 3194**]
   .
   #DISPO: Call out to floor
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2101-5-25**] 08:07 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2101-05-28 10:40:00 Physician Attending Progress Note
Chief Complaint: Pyelonephritis, sepsis, respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Yesterday afternoon, mental status dramatically cleared and she was
   extubated successfully.  Interval history provided by the patient is
   that she had been experiencing back pain/dysuria for several days
   leading up to this admission.
 INVASIVE VENTILATION - START [**2101-5-27**] 02:15 PM
 CALLED OUT
   History obtained from Patient
   Allergies:
   Zestril (Oral) (Lisinopril)
   Cough;
   Bactrim Ds (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Flagyl (Oral) (Metronidazole)
   Rash;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2101-5-28**] 08:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2101-5-28**] 08:00 AM
   Other medications:
   See resident Note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Cough, No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: No(t) Dysuria
   Flowsheet Data as of  [**2101-5-28**] 10:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.4
C (99.4
   HR: 100 (92 - 115) bpm
   BP: 170/74(97) {146/53(78) - 170/79(139)} mmHg
   RR: 19 (10 - 28) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  2,043 mL
                                                                    805 mL
   PO:
                                                                    650 mL
             TF:
                                                                    254 mL
   IVF:
                                                                  1,020 mL
                                                                    805 mL
   Blood products:
   Total out:
                                                                  3,500 mL
                                                                  1,150 mL
   Urine:
                                                                  3,500 mL
                                                                  1,150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,457 mL
                                                                   -346 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: PSV/SBT
   SpO2: 97%
   ABG: ///22/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic), Tachycardic
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Wheezes : )
   Abdominal: Soft, Non-tender, No(t) Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.4 g/dL
   266 K/uL
   219 mg/dL
   0.8 mg/dL
   22 mEq/L
   3.7 mEq/L
   15 mg/dL
   108 mEq/L
   141 mEq/L
   25.6 %
   25.5 K/uL
        [image002.jpg]
                             [**2101-5-25**]  03:57 AM
                             [**2101-5-25**]  06:44 AM
                             [**2101-5-25**]  02:44 PM
                             [**2101-5-25**]  03:08 PM
                             [**2101-5-25**]  10:01 PM
                             [**2101-5-26**]  04:27 AM
                             [**2101-5-26**]  08:08 AM
                             [**2101-5-26**]  05:03 PM
                             [**2101-5-27**]  03:50 AM
                             [**2101-5-28**]  04:45 AM
   WBC
   28.2
   23.6
   23.8
   25.5
   Hct
   24.5
   24.7
   24.5
   25.6
   Plt
   161
   192
   215
   266
   Cr
   1.3
   1.1
   1.1
   1.1
   1.1
   0.9
   0.8
   TCO2
   17
   19
   21
   Glucose
   [**Telephone/Fax (3) 3292**]43
   124
   165
   219
   Other labs: PT / PTT / INR:14.8/36.6/1.3, CK / CKMB /
   Troponin-T:362/10/0.36, ALT / AST:53/88, Alk Phos / T Bili:72/0.2,
   Amylase / Lipase:27/11, Differential-Neuts:85.0 %, Band:4.0 %,
   Lymph:10.0 %, Mono:1.0 %, Eos:0.0 %, Fibrinogen:822 mg/dL, Lactic
   Acid:1.4 mmol/L, Albumin:2.9 g/dL, LDH:395 IU/L, Ca++:8.6 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.6 mg/dL
   Microbiology: Repeat UCx:  NGTD
   Sputum Cx:  No bacteria on GS, Cx pending
   Blood surveillance Cx:  NGTD
   Assessment and Plan
   58 yo F with pyelonephritis complicated by septic shock, respiratory
   failure and altered mental status.  Now dramatically improved in all
   respects.
   1.) Pyelonephritis:  Cultures now negative. Fever curve improving.
      -Cipro x 14 days for citrobacter.  Change cipro from IV to PO
      -elevated WBC
still with significant leukocytosis but remains AF.
   Continue to monitor. Check diff
   2.)  DM:  Restart lantus tonight, now that she is eating
   3.) HTN:  Restarting home regimen.
   4.) Activity:  OOB today
   5.) Rhabdo:  CPK nearly normal today.  Restart statin
   6.) Access:  Place peripherals, d/c TLC
   ICU Care
   Nutrition:   PO diet
   Glycemic Control:
   Lines:
   Multi Lumen - [**2101-5-25**] 08:07 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes